US07420056B2
11.5 g (31.3 mmol) of tert-butyl-[2-(5-trimethylsilanylethynyl-thiophen-2-yl)-imidazo[1,2-a]pyridin-3-yl]-amine were dissolved in a mixture of MeOH (230 ml) and DCM (50 ml) and combined with 431 mg (3.13 mmol) of potassium carbonate The reaction solution was stirred at RT for 30 min and then combined with water (200 ml). The mixture was then extracted with DCM and the organic phase was washed with water and dried over MgSO4. After filtration and evaporation under a vacuum, 9.0 g (30.5 mmol, 97%) of tert-butyl-[2-(5-ethynyl-thiophen-2-yl)-imidazo[1,2-a]pyridin-3-yl]-amine were obtained.

reactant | tert-butyl-[2-(5-trimethylsilanylethynyl-thiophen-2-yl)-imidazo[1,2-a]pyridin-3-yl]-amine | 31.3 mmol, 11.5 g | C(C)(C)(C)NC1=C(N=C2N1C=CC=C2)C=2SC(=CC2)C#C[Si](C)(C)C | C20H25N3SSi
reactant | potassium carbonate | 3.13 mmol, 431 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 200 ml | O | H2O
solvent | MeOH | 230 ml | CO | CH4O
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl-[2-(5-ethynyl-thiophen-2-yl)-imidazo[1,2-a]pyridin-3-yl]-amine | 30.5 mmol, 9.0 g, 97% | C(C)(C)(C)NC1=C(N=C2N1C=CC=C2)C=2SC(=CC2)C#C | C17H17N3S
